US08735379B2
A mixture of 2-(benzyloxycarbonylamino)-4-methylpentanoic acid (1 g, 3.8 mmol), methyl 5-amino-2-hydroxybenzoate (0.66 g, 3.95 mmol) and Et3N (0.76 g, 7.6 mmol) were dissolved in CH3CN (10 mL) and HATU (1.503 g, 3.95 mmol) was added. The mixture was stirred (RT, 16 h). The solvent was removed under reduced pressure. Brine (50 mL) was added to the resulting residue, and the mixture was extracted with EtOAc (3×50 mL). The combined organic layers were washed successively with 2N aq. HCl (3×50 mL), brine (50 mL), 5% NaHCO3 (50 mL×3), brine (50 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by silica chromatography on (CH2Cl2) to give methyl 5-(2-(benzyloxycarbonylamino)-4-methylpentanamido)-2-hydroxybenzoate as a white solid (0.81 g, 51.8%).

reactant | 2-(benzyloxycarbonylamino)-4-methylpentanoic acid | 3.8 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CC(C)C | C14H19NO4
reactant | methyl 5-amino-2-hydroxybenzoate | 3.95 mmol, 0.66 g | NC=1C=CC(=C(C(=O)OC)C1)O | C8H9NO3
reactant | Et3N | 7.6 mmol, 0.76 g | CCN(CC)CC | C6H15N
reactant | HATU | 3.95 mmol, 1.503 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | methyl 5-(2-(benzyloxycarbonylamino)-4-methylpentanamido)-2-hydroxybenzoate | 0.81 g, 51.8% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NC=1C=CC(=C(C(=O)OC)C1)O)CC(C)C | C22H26N2O6
